US07737149B2
A solution of 1-methylpiperazin-2-one (198 mg, 1.74 mmol) in dichloromethane (4.00 mL) was added to a stirred solution of methyl 2-chloropyrimidine-5-carboxylate (300 mg, 1.74 mmol) in dichloromethane (4.70 mL) at 25° C. The resulting solution was stirred at room temperature for 4 h under nitrogen. The reaction mixture was concentrated and dissolved in ethyl acetate (25 ml) and NaOH (50 ml, 1M aqueous solution). The organic layer was washed with ethyl acetate (25 ml). The organic layers were combined and washed with brine (50 ml), dried using MgSO4, filtered and evaporated to dryness to afford methyl 2-(4-methyl-3-oxopiperazin-1-yl)pyrimidine-5-carboxylate (246 mg, 57%) as a cream solid.

reactant | 1-methylpiperazin-2-one | 1.74 mmol, 198 mg | CN1C(CNCC1)=O | C5H10N2O
reactant | methyl 2-chloropyrimidine-5-carboxylate | 1.74 mmol, 300 mg | ClC1=NC=C(C=N1)C(=O)OC | C6H5ClN2O2
solvent | dichloromethane | 4.00 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4.70 mL | ClCCl | CH2Cl2
product | methyl 2-(4-methyl-3-oxopiperazin-1-yl)pyrimidine-5-carboxylate | 246 mg, 57% | CN1C(CN(CC1)C1=NC=C(C=N1)C(=O)OC)=O | C11H14N4O3
